US08124621B2
b) 4-(4-Aminophenyl)-6-chloro-1-dimethylamino-3,4-dihydroisoquinoline Hydrochloride
100 mg of iron powder were added to a solution of 195 mg of 6-chloro-1-dimethylamino-4-(4-nitrophenyl)-3,4-dihydroisoquinoline in 3.5 ml of glacial acetic acid and then 1.8 ml of concentrated hydrochloric acid were added dropwise, and the mixture was boiled under reflux conditions for 2 hours. The solvent was removed by distillation, and the residue was mixed with water and made alkaline with 2N NaOH. This aqueous phase was extracted with ethyl acetate and purified by MPLC chromatography using an MPRC cartridge with a mixture of 10 parts by volume of ethyl acetate, 5 parts by volume of n-heptane, 5 parts by volume of dichloromethane, 5 parts by volume of methanol and 1 part by volume of concentrated aqueous ammonia solution. After removal of the solvent in a Rotavapor, the viscous amorphous residue was treated in ethyl acetate with ethereal hydrogen chloride solution, and the crystalline solid was filtered off.

reactant | 6-chloro-1-dimethylamino-4-(4-nitrophenyl)-3,4-dihydroisoquinoline | 195 mg | ClC=1C=C2C(CN=C(C2=CC1)N(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H16ClN3O2
reactant | hydrochloric acid | 1.8 ml | Cl | ClH
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 100 mg | [Fe] | Fe
product | 4-(4-Aminophenyl)-6-chloro-1-dimethylamino-3,4-dihydroisoquinoline Hydrochloride | Cl.NC1=CC=C(C=C1)C1CN=C(C2=CC=C(C=C12)Cl)N(C)C | InChI=1S/C17H18ClN3.ClH/c1-21(2)17-14-8-5-12(18)9-15(14)16(10-20-17)11-3-6-13(19)7-4-11;/h3-9,16H,10,19H2,1-2H3;1H
